US08034938B2
A solution of (11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline (3.7 g, 10 mmol) dissolved in CHCl3 was treated with mCPBA (50% purity, 4.8 g, 13 mmol). The reaction was stirred at ambient temperature for 18 hours. Saturated aqueous NaHCO3 (100 mL) and H2O (50 mL) were then added to the reaction and the layers were separated. The aqueous layer was extracted with additional CHCl3. The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure to give a black oil. The oil was dissolved in methanol (53 mL) and treated with concentrated NH4OH solution (3.6 mL, 53 mmol). The solution was stirred and benzene sulfonyl chloride (2.9 mL, 53 mmol) was carefully added. The resulting reaction mixture was stirred at ambient temperature for 2 hours before adding additional concentrated NH4OH solution (3.6 mL, 53 mmol) and benzene sulfonyl chloride (2.9 mL, 53 mmol). Stirring was continued for 18 hours and then reaction mixture was concentrated under reduced pressure. The resulting material was treated with saturated aqueous NaHCO3 (50 mL) and H2O (50 mL), and then extracted with CHCl3. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to give a brown oil. The oil was treated with Et2O and the mixture was stirred until a precipitate formed. The solid was isolated by filtration to give 3.1 g of (11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine as a tan solid.

reactant | (11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 10 mmol, 3.7 g | C(C1=CC=CC=C1)OC[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C21H19N3O2
reactant | mCPBA | 13 mmol, 4.8 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | NH4OH | 53 mmol, 3.6 mL | [NH4+].[OH-]
reactant | benzene sulfonyl chloride | 53 mmol, 2.9 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NH4OH | 53 mmol, 3.6 mL | [NH4+].[OH-]
reactant | benzene sulfonyl chloride | 53 mmol, 2.9 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 53 mL | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
solvent | H2O | 50 mL | O | H2O
product | (11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 3.1 g | C(C1=CC=CC=C1)OC[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C21H20N4O2
